data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1693,1869,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[O+:18][CH-:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([CH3:6])=[O:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:18][CH:19]2[C:20]([CH3:21])=[O:22],water,298.15,13.450496635954686,-28.239282394768328
1822,2020,[CH3:16][O:17][C:18](=[O:19])[C:20](=[NH+:21][N-:22][C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:20]([C:18]([O:17][CH3:16])=[O:19])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[NH:21][N:22]3[C:23]#[N:24],water,298.15,19.19523453631033,-30.151680947754787
1455,1603,[CH3:14][C:15](=[O:16])[C:17]([CH3:18])=[NH+:19][C-:20]([C:21]([CH3:22])=[O:23])[C:24]([CH3:25])=[O:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:17]([C:15]([CH3:14])=[O:16])([CH3:18])[NH:19][C:20]2([C:21]([CH3:22])=[O:23])[C:24]([CH3:25])=[O:26],water,298.15,51.142501710825776,7.86380261608504
1357,1492,[CH3:13][NH:14][C:15](=[O:16])[CH:17]=[N+:18]([CH3:19])[C-:20]([CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:20]([CH3:21])([C:22](=[O:23])[O:24][CH3:25])[N:18]([CH3:19])[CH:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,14.123350206430311,-31.14938560017233
3939,4504,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C:13]([C:14]([CH3:15])=[O:16])=[N+:17]([CH3:18])[CH-:19][C:20]#[N:21]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH:19]([C:20]#[N:21])[N:17]([CH3:18])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[C:14]([CH3:15])=[O:16],water,298.15,12.722606105356414,-22.351586207190905
731,793,[CH3:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][C-:19]([C:20]#[N:21])[C:22]#[N:23].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:15]([C:13]([CH3:12])=[O:14])([C:16]#[N:17])[NH:18][C:19]2([C:20]#[N:21])[C:22]#[N:23],water,298.15,23.313512262205872,-13.62442135626473
4847,5529,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23](=[O:24])[O:25][CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)=[N:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:23](=[O:24])[O:25][CH3:26],water,298.15,13.251608239908071,-23.99850932139056
1203,1309,[CH3:13][C-:14]([NH+:15]=[C:16]([C:17]#[N:18])[C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:14]([CH3:13])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:15][C:16]2([C:17]#[N:18])[C:19]#[N:20],water,298.15,28.211782087891173,-15.549419286904692
172,189,[CH3:12][CH:13]=[NH+:14][CH-:15][C:16]([CH3:17])=[O:18].[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH:15]([C:16]([CH3:17])=[O:18])[NH:14][CH:13]2[CH3:12],water,298.15,17.49475822376633,-23.11827961058724
4639,5292,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[o:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]1([C:12]([CH3:11])=[O:13])[NH:15][C:16]2([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[C:23](=[O:24])[O:25]1,water,298.15,29.0707819301372,16.57228844065042
5228,5931,[CH3:10][O:11][C:12](=[O:13])[C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N+:21]([CH3:22])=[C:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:21]([CH3:22])[C:23]1([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,36.47043842005984,-6.461421814540106
